US05112851
b) (5-Fluoro-1-naphthylmethyl)methylamine
The compound is obtained from 5-fluoro-1-naphthaldehyde and methylamine analogously to Example 2 as a colourless oil.

reactant | 5-fluoro-1-naphthaldehyde | FC1=C2C=CC=C(C2=CC=C1)C=O | C11H7FO
reactant | methylamine | CN | CH5N
product | (5-Fluoro-1-naphthylmethyl)methylamine | FC1=C2C=CC=C(C2=CC=C1)CNC | C12H12FN
